US04188330
3-Chloro-3-(4'-chloro-3'-chlorosulphonylphenyl)phthalide
In a preferred procedure, 3-(4'-chloro-3'-chlorosulfonylphenyl)phthalide (17.15 g) and phosphorous pentachloride (104 g.) is heated under reflux for 2.5 hours in 300 ml of chlorobenzene. The cooled solution is extracted three times with 100 ml portions of water, dried (Na2SO4), filtered, and concentrated under a reduced pressure to give a yellow oil from which the title compound can be fractionally crystallized.

reactant | 3-(4'-chloro-3'-chlorosulfonylphenyl)phthalide | 17.15 g | ClC1=C(C=C(C=C1)C1OC(=O)C2=CC=CC=C12)S(=O)(=O)Cl | C14H8Cl2O4S
reactant | phosphorous pentachloride | 104 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | chlorobenzene | 300 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 3-Chloro-3-(4'-chloro-3'-chlorosulphonylphenyl)phthalide | ClC1(OC(=O)C2=CC=CC=C12)C1=CC(=C(C=C1)Cl)S(=O)(=O)Cl | C14H7Cl3O4S
